* Z:\mnt\spice-netlists\LTC3776.asc
M§Q1b N005 N007 0 0 Si7540DP_N
C1 N001 0 1µ
L1 N005 OUT1 1.5µ
R1 N009 0 59K
R2 N009 OUT1 187K
C2 N011 N010 1000p
C3 N011 0 22p
R3 N010 0 27K
V1 IN 0 3.3
M§Q2b N006 N008 0 0 Si7540DP_N
C4 N013 N012 220p
C5 N012 0 22p
R4 N013 0 33K
L2 N006 OUT2 1.5µ
M§Q2a N006 N004 IN IN Si7540DP_P
R5 IN N001 10
R6 IN N002 100K
M§Q1a N005 N003 IN IN Si7540DP_P
C6 IN 0 10µ
C7 IN 0 10µ
Rload2 OUT2 0 .41
Rload1 OUT1 0 .83
XU1 N005 N001 N009 N011 N001 NC_01 0 N001 OUT1 OUT2 N012 N002 N006 IN 0 N008 NC_02 N004 0 N003 0 N007 MP_03 IN LTC3776
C8 IN 0 22µ
D1 N006 IN MBRS130L
D2 0 N006 MBRS130L
C9 OUT2 0 150µ
C10 OUT1 0 150µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LTC3776 - 2-Phase, 550KHz, Dual Output Synchronous DC/DC Converter For DDR/QDR Memory Termination \nInput: 3.3V   Outputs: 2.5V@3A and 1.25V@3A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3776.sub
.backanno
.end
